US08563742B2
2-bromo-1-spiro[5.5]undec-3-yl-ethanone (200 mg, 0.7 mmol) in MeOH (2 mL) was treated with 3-[1-(5-methyl-thiophen-2-ylmethyl)-thioureido]-propionic acid tert-butyl ester (250 mg, 0.8 mmol) following a method analogous to General Procedure C to produce 3-[(5-methyl-thiophen-2-ylmethyl)-(4-spiro[5.5]undec-3-yl-thiazol-2-yl)-amino]-propionic acid tert-butyl ester after workup and purification (45 mg). This propionate ester derivative (45 mg, 0.09 mmol) was hydrolyzed using NaOH (0.5 mL of 2.0N aq solution in 1 mL of 1:1:MeOH:THF) following a method analogous to General Procedure G1 to produce 3-[(5-methyl-thiophen-2-ylmethyl)-(4-spiro[5.5]undec-3-yl-thiazol-2-yl)-amino]-propionic acid after workup (15 mg, 33% yield). LC-MS m/z: 433 (M+1)+. 1H NMR (400 MHz, CDCl3): δ 6.80 (d, 1H), 6.59 (d, 1H), 6.11 (s, 1H), 4.60 (s, 2H), 3.75 (t, 2H), 2.71 (t, 2H), 2.51 (m, 1H), 2.43 (s, 3H), 1.82 (m, 2H), 1.71 (m, 2H), 1.50 (m, 2H), 1.3-1.5 (m, 7H), 1.27-1.13 (m, 5H). Sodium salt of the title compound could be prepared from the title compound following a method analogous to General Procedure H.

reactant | 2-bromo-1-spiro[5.5]undec-3-yl-ethanone | 0.7 mmol, 200 mg | BrCC(=O)C1CCC2(CC1)CCCCC2 | C13H21BrO
reactant | 3-[1-(5-methyl-thiophen-2-ylmethyl)-thioureido]-propionic acid tert-butyl ester | 0.8 mmol, 250 mg | C(C)(C)(C)OC(CCN(C(=S)N)CC=1SC(=CC1)C)=O | C14H22N2O2S2
solvent | MeOH | 2 mL | CO | CH4O
product | 3-[(5-methyl-thiophen-2-ylmethyl)-(4-spiro[5.5]undec-3-yl-thiazol-2-yl)-amino]-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCN(C=1SC=C(N1)C1CCC2(CC1)CCCCC2)CC=2SC(=CC2)C)=O | C27H40N2O2S2
